US04900752
7,8-dihydro-6,6-dimethyl-7-acetoxy-8-acetylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole
A mixture of 100 mg (0.36 m mol) of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-acetylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole, 2 ml of pyridine and 34 μl (0.36 m mol) of acetic anhydride was stirred at the room temperature for 24 hours. After the completion of the reaction, the mixture was diluted with ethyl acetate, washed with water and saturated anhydrous NaCl solution and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was recrystallized from chloroform to obtain 58 mg (yield: 26%) of the intended compound.

reactant | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-acetylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 100 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)NC(C)=O)O)C | C13H15N3O4
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 34 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7,8-dihydro-6,6-dimethyl-7-acetoxy-8-acetylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 58 mg, yield: 26% | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)NC(C)=O)OC(C)=O)C | C15H17N3O5
